US09328096B2
2-(5,6-dichloropyridin-2-yl)acetonitrile
To a solution of 6-(bromomethyl)-2,3-dichloropyridine (Preparation 60, 2.90 g, 3.13 mmol) in IMS (20 mL) and water (15 mL) was added NaCN (552 mg, 11.3 mmol). The reaction was heated to 100° C. for 1 hour before cooling to room temperature and quenching with saturated aqueous NaHCO3 solution (50 mL). The mixture was extracted with DCM (3×50 mL) and the organic layers combined, dried over MgSO4 and concentrated in vacuo. The residue was purified using reverse phase column chromatography eluting with 0-100% MeCN in water with 0.1% formic acid to afford the title compound (341 mg, 15% over two steps).

reactant | 6-(bromomethyl)-2,3-dichloropyridine | 3.13 mmol, 2.90 g | BrCC1=CC=C(C(=N1)Cl)Cl | C6H4BrCl2N
reactant | NaCN | 11.3 mmol, 552 mg | [C-]#N.[Na+]
solvent | water | 15 mL | O | H2O
product | 2-(5,6-dichloropyridin-2-yl)acetonitrile | 341 mg, 15% | ClC=1C=CC(=NC1Cl)CC#N | C7H4Cl2N2
